US05382379
A suspension of 3,4,5-trifluorobenzyltriphenylphosphonium bromide (234 g) in THF (500 ml) was stirred in a nitrogen gas stream, followed by adding sodium methoxide (32.4 g) little by little at room temperature, stirring the reaction solution at room temperature for one hour, dropwise adding a solution of 4-formylcyclohexanone (50 g) in THF (250 ml), stirring the mixture at room temperature for 2 hours, adding it to water (1 l) extracting with ethyl acetate (1 1), washing the organic layer with water, drying over anhydrous MgSO4, concentrating the solvent under reduced pressure, to obtain 4-(2'-(3",4",5"-trifluorophenyl)ethenyl)cyclohexanone (71 g).

reactant | 3,4,5-trifluorobenzyltriphenylphosphonium bromide | 234 g | [Br-].FC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1F)F
reactant | sodium methoxide | 32.4 g | C[O-].[Na+]
reactant | 4-formylcyclohexanone | 50 g | C(=O)C1CCC(CC1)=O | C7H10O2
reactant | water | 1 l | O | H2O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | 4-(2'-(3",4",5"-trifluorophenyl)ethenyl)cyclohexanone | 71 g | FC=1C=C(C=C(C1F)F)C=CC1CCC(CC1)=O | C14H13F3O
